US06753334B2
coupling said 5-cyclopropyl-1-(2-chloro-4-methanesulfonylphenyl)-1H-pyrazole-4-carboxylic acid with guanidine to form N-(5-cyclopropyl-1-quinolin-5-yl-1H-pyrazole-4-carbonyl)-guanidine.

reactant | 5-cyclopropyl-1-(2-chloro-4-methanesulfonylphenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C=NN1C1=C(C=C(C=C1)S(=O)(=O)C)Cl)C(=O)O | C14H13ClN2O4S
reactant | guanidine | NC(=N)N | CH5N3
product | N-(5-cyclopropyl-1-quinolin-5-yl-1H-pyrazole-4-carbonyl)-guanidine | C1(CC1)C1=C(C=NN1C1=C2C=CC=NC2=CC=C1)C(=O)NC(=N)N | C17H16N6O
